US05424435
The 1.64 g (0.010 moles) of 2,6-dichloropyridine N-oxide and 1.11 g (99%) (0.010 moles) of thiophenol was reacted with 0.400 g (0.010 moles) of ground sodium hydroxide of 16.4 ml of DMSO at 80° C. for 5 hours to give 2-chloro-6-thiophenylpyridine N-oxide. It was reacted with 1.20 g (0.030 moles) of ground sodium hydroxide at 80° C. for 2.5 hours to give 1-hydroxy-6-thiophenylpyridine-2-(1H)-one. After cooling, it was added 148 ml of water and was adjusted with 6N HCl to pH 3. The precipitate was filtered, washed with water and washed with hexanes to give 1.64 g (75%). It was recrystallized from ethanol: mp 180°-181° C.

reactant | 2,6-dichloropyridine N-oxide | 0.010 moles, 1.64 g | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | thiophenol | 0.010 moles, 1.11 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 16.4 ml | CS(=O)C | C2H6OS
product | 2-chloro-6-thiophenylpyridine N-oxide | ClC1=[N+](C(=CC=C1)C=1SC=CC1)[O-] | C9H6ClNOS
